US06384220B2
A solution of 3-cyclopentyl-2-(4-phenoxy-phenyl)-propionamide (143 mg, 0.46 mmol) in toluene (10 mL) was treated with methyl isocyanate (0.04 mL, 0.69 mmol). The reaction mixture was heated under reflux for 24 h. The reaction was then concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 80/20 hexanes/ethyl acetate) afforded 1-[3-cyclopentyl-2-(4-phenoxy-phenyl)-propionyl]-3-methyl-urea (116 mg, 69%) as a white solid: EI-HRMS m/e calcd for C22H26N2O3 (M+) 366.1943, found 366.1946.

reactant | 3-cyclopentyl-2-(4-phenoxy-phenyl)-propionamide | 0.46 mmol, 143 mg | C1(CCCC1)CC(C(=O)N)C1=CC=C(C=C1)OC1=CC=CC=C1 | C20H23NO2
reactant | methyl isocyanate | 0.69 mmol, 0.04 mL | CN=C=O | C2H3NO
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 1-[3-cyclopentyl-2-(4-phenoxy-phenyl)-propionyl]-3-methyl-urea | 116 mg, 69% | C1(CCCC1)CC(C(=O)NC(=O)NC)C1=CC=C(C=C1)OC1=CC=CC=C1 | C22H26N2O3
